US07820664B2
Step C: 4-(4-Bromo-2-chlorophenylamino)-6-chloronicotinic acid:
To a solution of 2-chloro-4-bromoaniline (6.776 g, 33.1 mmol) in 50 ml anhydrous THF was added LHMDS (50 ml, 50 mmol, 1M/THF) over a period of 15 min at −78° C. It was stirred for an additional 30 min., then a solution of 4,6-dichloronicotinic acid (3 g, 15.7 mmol) in 50 ml THF was added dropwise. After complete addition the mixture was gradually allowed to warm to room temperature and the reaction mixture was stirred for an additional 12 hours. The mixture was quenched with H2O and 1N HCl was added (pH 0-1) followed by brine. It was extracted using THF and dried with Na2SO4. The solvent was removed and the solid crude product was suspended in 200 ml EtOAc. The suspension was heated with stirring at the reflux temperature for 5 min. It was cooled to room temperature and the precipitate was filtered and washed with EtOAc and dried at 50° C. for 5 h in oil pump vacuo to obtain the title compound as an off-white solid (4.05 g, 72%). Rf (CHCl3/MeOH 10:1)=0.3. 1H-NMR (500 MHz, DMSO-D6): δ=10.12 (s, 1H), 8.65 (s, 1H), 7.88 (s, 1H), 7.62-7.57 (dd, 1H), 7.55-7.48 (dd, 1H), 6.67 (s, 1H).

reactant | 2-chloro-4-bromoaniline | 33.1 mmol, 6.776 g | ClC1=C(N)C=CC(=C1)Br | C6H5BrClN
reactant | LHMDS | 50 mmol, 1M, 50 ml | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | 4,6-dichloronicotinic acid | 15.7 mmol, 3 g | ClC1=CC(=NC=C1C(=O)O)Cl | C6H3Cl2NO2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
product | 4-(4-Bromo-2-chlorophenylamino)-6-chloronicotinic acid | 4.05 g, 72% | BrC1=CC(=C(C=C1)NC1=CC(=NC=C1C(=O)O)Cl)Cl | C12H7BrCl2N2O2
